US08383584B2
Step a: 1-[(3-Oxo-2-oxa-bicyclo[2.2.1]heptane-5-carbonyl)-amino]-2-vinyl-cyclo-propane carboxylic acid ethyl ester (1a)
To a solution of 3-oxo-2-oxa-bicyclo[2.2.1]heptane-5-carboxylic acid (857 mg, 5.5 mmol), in DMF (14 ml) and DCM (25 ml) at room temperature, was added 1-amino-2-vinylcyclopropanecarboxylic acid ethyl ester (1.15 g, 6.0 mmol), HATU (2.29 g, 6.0 mmol) and DIPEA (3.82 ml, 22 mmol). The reaction was stirred under N2-atmosphere at ambient temperature for 1 h. LC/MS analysis showed complete conversion and the reaction mixture was concentrated in vacuo. The residue was re-dissolved in DCM (100 ml) and 0.1 M HCl (aq) and the layers separated. The organic phase was washed with NaHCO3 (aq) and brine, dried (MgSO4) and filtered. Removal of the solvent in vacuo afforded the title compound (1.6 g, 99%). LC/MS (Method A): tR=2.46 min, >95%, m/z (ESI+)=294(MH+)

reactant | 3-oxo-2-oxa-bicyclo[2.2.1]heptane-5-carboxylic acid | 5.5 mmol, 857 mg | O=C1OC2CC(C1C2)C(=O)O | C7H8O4
reactant | 1-amino-2-vinylcyclopropanecarboxylic acid ethyl ester | 6.0 mmol, 1.15 g | C(C)OC(=O)C1(C(C1)C=C)N | C8H13NO2
reactant | HATU | 6.0 mmol, 2.29 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 22 mmol, 3.82 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-[(3-Oxo-2-oxa-bicyclo[2.2.1]heptane-5-carbonyl)-amino]-2-vinyl-cyclo-propane carboxylic acid ethyl ester | 1.6 g, 99% | C(C)OC(=O)C1(C(C1)C=C)NC(=O)C1C2C(OC(C1)C2)=O | C15H19NO5
